*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.2
* < ILD_dielectric_const = 3.8
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_0 1 2 3 4 REF
C_C1 1 REF 0.7233257922564pf
C_C2 1 2 17.640030240077pf
C_C3 1 3 0.0293755656032pf
C_C4 1 4 0.2420967450173pf
C_C5 2 REF 0.9495961781229pf
C_C6 2 3 0.125785635484pf
C_C7 3 REF 0.602819998394pf
C_C8 3 4 5.3620406216476pf
C_C9 4 REF 0.608867072819pf
L_L1 3 5 1.296808416642nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_1 1 2 3 4 REF
C_C1 1 REF 0.6118211807978pf
C_C2 1 2 18.050365550593pf
C_C3 1 3 0.0269718015095pf
C_C4 1 4 0.2465929208819pf
C_C5 2 REF 0.8450392137582pf
C_C6 2 3 0.1263126297211pf
C_C7 3 REF 0.6047306930847pf
C_C8 3 4 3.9643021083241pf
C_C9 4 REF 0.6078195201373pf
L_L1 3 5 1.2979321936035nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_2 1 2 3 4 REF
C_C1 1 REF 0.5229816990202pf
C_C2 1 2 18.501768319743pf
C_C3 1 3 0.0245783702431pf
C_C4 1 4 0.2515214667593pf
C_C5 2 REF 0.7635840324455pf
C_C6 2 3 0.1269557662432pf
C_C7 3 REF 0.6065133109483pf
C_C8 3 4 2.9869527763966pf
C_C9 4 REF 0.607226801446pf
L_L1 3 5 1.2988688539132nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_3 1 2 3 4 REF
C_C1 1 REF 0.4399471175693pf
C_C2 1 2 19.119408944318pf
C_C3 1 3 0.0215973593086pf
C_C4 1 4 0.2583337082766pf
C_C5 2 REF 0.6904963397083pf
C_C6 2 3 0.127971630801pf
C_C7 3 REF 0.608517330952pf
C_C8 3 4 2.1446449287676pf
C_C9 4 REF 0.6069262870401pf
L_L1 3 5 1.2998175016636nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_4 1 2 3 4 REF
C_C1 1 REF 0.3716941968393pf
C_C2 1 2 19.918502713753pf
C_C3 1 3 0.018076696229pf
C_C4 1 4 0.2672981395457pf
C_C5 2 REF 0.6351235205132pf
C_C6 2 3 0.1295066918588pf
C_C7 3 REF 0.6105475490224pf
C_C8 3 4 1.4683743340569pf
C_C9 4 REF 0.6069368351725pf
L_L1 3 5 1.3007665044547nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_5 1 2 3 4 REF
C_C1 1 REF 0.3285331715229pf
C_C2 1 2 20.789196244094pf
C_C3 1 3 0.0145578630382pf
C_C4 1 4 0.2772432129837pf
C_C5 2 REF 0.6061383441659pf
C_C6 2 3 0.1314432405887pf
C_C7 3 REF 0.6121732916092pf
C_C8 3 4 1.0199142591431pf
C_C9 4 REF 0.6071689912001pf
L_L1 3 5 1.3015337612639nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_6 1 2 3 4 REF
C_C1 1 REF 0.3022814662571pf
C_C2 1 2 21.737814160277pf
C_C3 1 3 0.0109808510164pf
C_C4 1 4 0.2882257187261pf
C_C5 2 REF 0.5954827809861pf
C_C6 2 3 0.1338134562865pf
C_C7 3 REF 0.6134231738256pf
C_C8 3 4 0.7120268420641pf
C_C9 4 REF 0.6074949518805pf
L_L1 3 5 1.3021645631738nh
R_RL1 5 4 -1.018708872e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_7 1 2 3 4 REF
C_C1 1 REF 0.2851880349595pf
C_C2 1 2 22.96488829968pf
C_C3 1 4 0.3025547529003pf
C_C4 2 REF 0.5986511496432pf
C_C5 2 3 0.1371978929561pf
C_C6 3 REF 0.6144625204064pf
C_C7 3 4 0.4656821082364pf
C_C8 4 REF 0.6079017173486pf
L_L1 3 5 1.3027600311997nh
R_RL1 5 4 -1.364194532e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_8 1 2 3 4 REF
C_C1 1 REF 0.2750722761057pf
C_C2 1 2 24.530819232942pf
C_C3 1 4 0.3208883301978pf
C_C4 2 REF 0.6142781946766pf
C_C5 2 3 0.1418748512402pf
C_C6 3 REF 0.615210481456pf
C_C7 3 4 0.2753591263908pf
C_C8 4 REF 0.6083335853959pf
L_L1 3 5 1.3033224880903nh
R_RL1 5 4 -1.682923721e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_9 1 2 3 4 REF
C_C1 1 REF 0.2684379275681pf
C_C2 1 2 26.574629743939pf
C_C3 1 4 0.3447256480426pf
C_C4 2 REF 0.640738346692pf
C_C5 2 3 0.1483941450136pf
C_C6 3 REF 0.6156131237505pf
C_C7 3 4 0.134462268272pf
C_C8 4 REF 0.6087481281036pf
L_L1 1 5 85.719253544503nh
R_RL1 5 2 6.5902840048816
L_L2 3 6 1.3037984796708nh
R_RL2 6 4 -1.927832955e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_10 1 2 3 4 REF
C_C1 1 REF 0.2604707970733pf
C_C2 1 2 29.254834537332pf
C_C3 1 4 0.3756993265247pf
C_C4 2 REF 0.6751800704914pf
C_C5 2 3 0.1573568905422pf
C_C6 3 REF 0.6156849912239pf
C_C7 3 4 0.0319036668195pf
C_C8 4 REF 0.6091225349388pf
L_L1 1 5 53.683842649992nh
R_RL1 5 2 3.4954666432081
L_L2 3 6 1.3041977103512nh
R_RL2 6 4 -2.072402685e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_11 1 2 3 4 REF
C_C1 1 REF 0.2456434803523pf
C_C2 1 2 32.914693272285pf
C_C3 1 4 0.4174429573796pf
C_C4 2 REF 0.7166438549749pf
C_C5 2 3 0.1700187504218pf
C_C6 3 REF 0.6154520730002pf
C_C7 4 REF 0.6094633071021pf
L_L1 1 5 33.251524466991nh
R_RL1 5 2 1.440361057194
L_L2 3 6 1.3042313759384nh
R_RL2 6 4 -2.0743812e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_12 1 2 3 4 REF
C_C1 1 REF 0.2181544647343pf
C_C2 1 2 38.046030825954pf
C_C3 1 4 0.4751802753521pf
C_C4 2 REF 0.7660039996646pf
C_C5 2 3 0.188143825312pf
C_C6 3 REF 0.6149738577771pf
C_C7 4 REF 0.6098106030397pf
L_L1 1 5 20.112785041828nh
R_RL1 5 2 0.3772798545269
L_L2 3 6 1.3039655037815nh
R_RL2 6 4 -1.91333811e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_13 1 2 3 4 REF
C_C1 1 REF 0.1689715877897pf
C_C2 1 2 45.751675770085pf
C_C3 1 4 0.560832176438pf
C_C4 2 REF 0.8297300889242pf
C_C5 2 3 0.2156736374642pf
C_C6 3 REF 0.6142843577736pf
C_C7 4 REF 0.6102559418791pf
L_L1 1 5 11.942912472146nh
R_RL1 5 2 -0.676905344013
L_L2 3 6 1.3034839793882nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_14 1 2 3 4 REF
C_C1 1 REF 0.0835310382921pf
C_C2 1 2 58.072978329303pf
C_C3 1 4 0.6966312243508pf
C_C4 2 REF 0.9223759960972pf
C_C5 2 3 0.2598767607179pf
C_C6 3 REF 0.6133958005632pf
C_C7 4 REF 0.6109727953406pf
R_R1 1 2 566.55131361945
L_L1 1 5 6.5730641824335nh
R_RL1 5 2 0.1675503565803
L_L2 3 6 1.3027138025859nh
R_RL2 6 4 -1.023594632e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_15 1 2 3 4 REF
C_C1 1 2 80.467949042073pf
C_C2 1 4 0.9422570955365pf
C_C3 2 REF 1.0837746417503pf
C_C4 2 3 0.3402295166153pf
C_C5 3 REF 0.6122095662599pf
C_C6 4 REF 0.6123931526098pf
R_R1 1 2 226.55210165295
L_L1 1 5 3.3420161908331nh
R_RL1 5 2 -0.256414988621
L_L2 3 6 1.3012903978821nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_16 1 2 3 4 REF
C_C1 1 2 133.69605574861pf
C_C2 1 4 1.524958741488pf
C_C3 2 REF 1.463977556821pf
C_C4 2 3 0.5309426431645pf
C_C5 3 REF 0.6101828863271pf
C_C6 4 REF 0.6161185980918pf
R_R1 1 2 81.519814812019
L_L1 1 5 1.367076271934nh
R_RL1 5 2 -0.164282445645
L_L2 1 6 59.906371228974nh
R_RL2 6 3 -0.201558177268
L_L3 1 7 59.172394752998nh
R_RL3 7 4 -0.202376261373
L_L4 2 8 60.007468048786nh
R_RL4 8 3 0.01722740258
L_L5 2 9 59.276510944675nh
R_RL5 9 4 0.0168956656176
L_L6 3 10 1.2980089109472nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L2 0.0699461446547
Kn_K2 L_L1 L_L3 0.070210761318
Kn_K3 L_L1 L_L4 -0.081049108192
Kn_K4 L_L1 L_L5 -0.081715004076
Kn_K5 L_L2 L_L3 0.9891183666933
Kn_K6 L_L2 L_L4 0.9885998634545
Kn_K7 L_L2 L_L5 0.977627010007
Kn_K8 L_L2 L_L6 -0.1152166493
Kn_K9 L_L3 L_L4 0.9776874600964
Kn_K10 L_L3 L_L5 0.9884588968291
Kn_K11 L_L3 L_L6 0.0321792318949
Kn_K12 L_L4 L_L5 0.9891369015026
Kn_K13 L_L4 L_L6 -0.114948494813
Kn_K14 L_L5 L_L6 0.032323069017
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_17 1 2 3 4 REF
C_C1 1 2 336.14810281752pf
C_C2 1 4 3.7405592245859pf
C_C3 2 REF 2.9127160245685pf
C_C4 2 3 1.2556841722905pf
C_C5 3 REF 0.6042928670112pf
C_C6 4 REF 0.631413939713pf
R_R1 1 2 17.253920754757
L_L1 1 5 44.505714465092nh
R_RL1 5 REF -1.60307353945
L_L2 1 6 0.3689683909309nh
R_RL2 6 2 -0.071869870631
L_L3 1 7 18.943804223875nh
R_RL3 7 3 -0.064852500578
L_L4 1 8 18.259157244299nh
R_RL4 8 4 -0.066243264484
L_L5 2 9 44.238750464969nh
R_RL5 9 REF -1.743591434518
L_L6 2 10 19.012561120704nh
R_RL6 10 3 0.0031158435375
L_L7 2 11 18.332033321581nh
R_RL7 11 4 0.0030233656593
L_L8 3 12 63.015231196692nh
R_RL8 12 REF -1.708380817259
L_L9 3 13 1.2857394069722nh
R_RL9 13 4 1.0e-5
L_L10 4 14 62.32144088579nh
R_RL10 14 REF -1.71065107738
Kn_K1 L_L1 L_L2 0.0784654519872
Kn_K2 L_L1 L_L5 0.9958468563299
Kn_K3 L_L1 L_L8 0.8362979059142
Kn_K4 L_L1 L_L10 0.8408532386812
Kn_K5 L_L2 L_L3 0.0567765684876
Kn_K6 L_L2 L_L4 0.0570377246625
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.082633614256
Kn_K9 L_L2 L_L7 -0.084945333609
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9656033889401
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9902807680029
Kn_K15 L_L3 L_L7 0.9556273089297
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.199623344156
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9559100281166
Kn_K21 L_L4 L_L7 0.9899184326684
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0620289485129
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8356382336573
Kn_K26 L_L5 L_L10 0.840150418385
Kn_K27 L_L6 L_L7 0.9657312976214
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.198845492766
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0623297603388
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1099595074763
Kn_K35 L_L8 L_L10 0.9897568777607
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_18 1 2 3 4 REF
C_C1 1 REF 74.064556467862pf
C_C2 1 3 34.642919073458pf
C_C3 2 4 110.0843374486pf
C_C4 3 REF 0.868062909304pf
R_R1 1 REF -3.64513251873
R_R2 1 2 0.0254779735625
R_R3 1 3 -6.956118526186
R_R4 1 4 2.3466663121353
R_R5 2 REF 3.6452092738043
R_R6 2 3 6.9575258726384
R_R7 2 4 -2.347148077853
R_R8 3 REF -993.7313113359
R_R9 3 4 640.74482302234
R_R10 4 REF 335.99045884399
L_L1 1 5 0.9674663918013nh
R_RL1 5 REF -1.04704214e-3
L_L2 1 6 0.0016098534191nh
R_RL2 6 2 -0.029342099507
L_L3 1 7 0.9925439475264nh
R_RL3 7 3 -7.496674736e-3
L_L4 1 8 0.5325910823849nh
R_RL4 8 4 -0.020680262718
L_L5 2 9 0.9555867977874nh
R_RL5 9 REF -0.030617043565
L_L6 2 10 0.9923718596577nh
R_RL6 10 3 -7.135808771e-3
L_L7 2 11 0.5407785379012nh
R_RL7 11 4 -7.472728548e-4
L_L8 3 12 1.9516320096481nh
R_RL8 12 REF -8.597272513e-3
L_L9 3 13 0.8718492601549nh
R_RL9 13 4 -3.252143356e-3
L_L10 4 14 1.4952504993312nh
R_RL10 14 REF -0.0218918971
Kn_K1 L_L1 L_L2 0.1709043250999
Kn_K2 L_L1 L_L5 0.999181931001
Kn_K3 L_L1 L_L8 0.7010264158828
Kn_K4 L_L1 L_L10 0.8023811188848
Kn_K5 L_L2 L_L3 0.0222892448536
Kn_K6 L_L2 L_L4 -0.112317515945
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.017985714296
Kn_K9 L_L2 L_L7 -0.16602516338
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.111567754331
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.4492637570654
Kn_K14 L_L3 L_L5 0.9864785415789
Kn_K15 L_L3 L_L6 0.999188960076
Kn_K16 L_L3 L_L7 0.444633704258
Kn_K17 L_L3 L_L8 0.6921137131208
Kn_K18 L_L3 L_L9 -0.715836985544
Kn_K19 L_L3 L_L10 0.7921798136951
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.4538265093629
Kn_K22 L_L4 L_L7 0.998529236621
Kn_K23 L_L4 L_L8 0.9448337141943
Kn_K24 L_L4 L_L9 0.302231932733
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7010839654353
Kn_K27 L_L5 L_L10 0.7989593498412
Kn_K28 L_L6 L_L7 0.4513592322197
Kn_K29 L_L6 L_L8 0.6879674401502
Kn_K30 L_L6 L_L9 -0.711405447384
Kn_K31 L_L6 L_L10 0.784011681615
Kn_K32 L_L7 L_L8 0.9319559412031
Kn_K33 L_L7 L_L9 0.3060225558318
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.5091243556908
Kn_K36 L_L8 L_L10 0.7536971985329
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_19 1 2 3 4 REF
C_C1 1 2 7393.6152934897pf
C_C2 1 4 81.924961151057pf
C_C3 2 REF 55.364406410508pf
C_C4 2 3 25.639335527277pf
C_C5 3 REF 0.4212073574796pf
C_C6 3 4 0.0898586249298pf
C_C7 4 REF 1.2105230937775pf
R_R1 1 REF 4.3612132726728
R_R2 1 2 -0.030572004171
R_R3 1 3 8.3670642589615
R_R4 1 4 -2.813431780607
R_R5 2 REF -4.363224840745
R_R6 2 3 -8.368810552285
R_R7 2 4 2.8140092164527
R_R8 3 4 -769.4017668741
R_R9 4 REF -401.7654653563
L_L1 1 5 1.069442394937nh
R_RL1 5 REF -1.464859816e-3
L_L2 1 6 0.0037384547389nh
R_RL2 6 2 0.0158633543074
L_L3 1 7 1.071251290066nh
R_RL3 7 3 0.0038623206119
L_L4 1 8 0.5876544529751nh
R_RL4 8 4 0.010418298581
L_L5 2 9 1.0579001411822nh
R_RL5 9 REF 0.0126713492287
L_L6 2 10 1.0716641570677nh
R_RL6 10 3 0.0040504487285
L_L7 2 11 0.5953957111737nh
R_RL7 11 4 5.6042497092e-4
L_L8 3 12 2.132691509116nh
R_RL8 12 REF 0.001509821328
L_L9 3 13 0.9066424553221nh
R_RL9 13 4 0.0016024855743
L_L10 4 14 1.6443979420902nh
R_RL10 14 REF 0.0075078358675
Kn_K1 L_L1 L_L2 0.1208338834694
Kn_K2 L_L1 L_L5 0.9982573578091
Kn_K3 L_L1 L_L8 0.7054834208844
Kn_K4 L_L1 L_L10 0.8016578955647
Kn_K5 L_L2 L_L3 0.0262752388091
Kn_K6 L_L2 L_L4 -0.042699932806
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.032792987383
Kn_K9 L_L2 L_L7 -0.121661206229
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.062938234934
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.4740598528612
Kn_K14 L_L3 L_L5 0.997414182254
Kn_K15 L_L3 L_L6 0.9982554537835
Kn_K16 L_L3 L_L7 0.4688858933838
Kn_K17 L_L3 L_L8 0.7048875360954
Kn_K18 L_L3 L_L9 -0.705335687641
Kn_K19 L_L3 L_L10 0.8009807772486
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.4764905195789
Kn_K22 L_L4 L_L7 0.9968613278508
Kn_K23 L_L4 L_L8 0.9517096976372
Kn_K24 L_L4 L_L9 0.2897865095222
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.705341996621
Kn_K27 L_L5 L_L10 0.7987090706479
Kn_K28 L_L6 L_L7 0.4759812595199
Kn_K29 L_L6 L_L8 0.7007977965242
Kn_K30 L_L6 L_L9 -0.701482475194
Kn_K31 L_L6 L_L10 0.7935633486385
Kn_K32 L_L7 L_L8 0.9401977973669
Kn_K33 L_L7 L_L9 0.2928836738179
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.5015823523907
Kn_K36 L_L8 L_L10 0.7663939256541
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_20 1 2 3 4 REF
C_C1 1 2 181.3097550057pf
C_C2 1 4 2.0425621587918pf
C_C3 2 REF 1.8051035947818pf
C_C4 2 3 0.7002722192678pf
C_C5 3 REF 0.6059947629524pf
C_C6 4 REF 0.6166299697797pf
R_R1 1 2 -38.43616976682
L_L1 1 5 60.120136014788nh
R_RL1 5 REF -4.105528662258
L_L2 1 6 0.2221898868199nh
R_RL2 6 2 0.0270687571981
L_L3 1 7 20.512022132015nh
R_RL3 7 3 -6.857140562e-3
L_L4 1 8 19.79833891522nh
R_RL4 8 4 -6.440247425e-3
L_L5 2 9 59.483317686593nh
R_RL5 9 REF -4.132686340914
L_L6 2 10 20.675308933682nh
R_RL6 10 3 0.0104837710626
L_L7 2 11 19.969909094561nh
R_RL7 11 4 0.0097525189087
L_L8 3 12 80.213109961856nh
R_RL8 12 REF -4.189708979621
L_L9 3 13 1.2846578229983nh
R_RL9 13 4 3.8072008296e-5
L_L10 4 14 79.485624035404nh
R_RL10 14 REF -4.193201102398
Kn_K1 L_L1 L_L2 0.1175155128992
Kn_K2 L_L1 L_L5 0.9981564273337
Kn_K3 L_L1 L_L8 0.862722452619
Kn_K4 L_L1 L_L10 0.8665616256317
Kn_K5 L_L2 L_L3 0.0137956340196
Kn_K6 L_L2 L_L4 0.0120673834896
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.089924902605
Kn_K9 L_L2 L_L7 -0.093465532763
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9682825974038
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9946131990382
Kn_K15 L_L3 L_L7 0.9626589794786
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.194644277786
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9632004522652
Kn_K21 L_L4 L_L7 0.9944221366992
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0566081142625
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8615366620965
Kn_K26 L_L5 L_L10 0.8653096549087
Kn_K27 L_L6 L_L7 0.9685392553282
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.193070502948
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.057182120422
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.0991088867444
Kn_K35 L_L8 L_L10 0.9919660343401
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_21 1 2 3 4 REF
C_C1 1 REF 0.1329129516378pf
C_C2 1 2 53.093822156618pf
C_C3 1 4 0.6355398853662pf
C_C4 2 REF 0.8876774873689pf
C_C5 2 3 0.2418570987953pf
C_C6 3 REF 0.6084876624182pf
C_C7 4 REF 0.6054500160399pf
R_R1 1 2 -307.1685754911
L_L1 1 5 0.6764745207529nh
R_RL1 5 2 -0.272496798501
L_L2 1 6 71.77607939264nh
R_RL2 6 3 -0.171123321172
L_L3 1 7 70.880851866979nh
R_RL3 7 4 -0.167728762957
L_L4 2 8 72.724994131111nh
R_RL4 8 3 -0.787213878904
L_L5 2 9 71.836335900978nh
R_RL5 9 4 -0.779471762011
L_L6 3 10 1.294797401827nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L2 -0.019549048994
Kn_K2 L_L1 L_L3 -0.020146463891
Kn_K3 L_L1 L_L4 -0.115867015519
Kn_K4 L_L1 L_L5 -0.11705266918
Kn_K5 L_L2 L_L3 0.9909432100266
Kn_K6 L_L2 L_L4 0.9953400116235
Kn_K7 L_L2 L_L5 0.9862280099737
Kn_K8 L_L2 L_L6 -0.113586910383
Kn_K9 L_L3 L_L4 0.9864001203254
Kn_K10 L_L3 L_L5 0.9952823403595
Kn_K11 L_L3 L_L6 0.020854384165
Kn_K12 L_L4 L_L5 0.9910619916394
Kn_K13 L_L4 L_L6 -0.112504946819
Kn_K14 L_L5 L_L6 0.0210558068083
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_22 1 2 3 4 REF
C_C1 1 REF 0.3550512720224pf
C_C2 1 2 23.391298188361pf
C_C3 1 3 0.0243431412383pf
C_C4 1 4 0.3070975928186pf
C_C5 2 REF 0.6810544899732pf
C_C6 2 3 0.1338842573762pf
C_C7 3 REF 0.608635051827pf
C_C8 4 REF 0.6023062469896pf
L_L1 1 5 0.9786141749918nh
R_RL1 5 2 -0.010045680535
L_L2 3 6 1.2959739592412nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_23 1 2 3 4 REF
C_C1 1 REF 0.438581163147pf
C_C2 1 2 12.873791624616pf
C_C3 1 3 0.0675451204672pf
C_C4 1 4 0.1899535231492pf
C_C5 2 REF 0.6145938735761pf
C_C6 2 3 0.0936403201757pf
C_C7 3 REF 0.6079446645776pf
C_C8 4 REF 0.6004221415495pf
L_L1 1 5 1.3590642187454nh
R_RL1 5 2 -0.020953414721
L_L2 3 6 1.2938470960263nh
R_RL2 6 4 -1.245726406e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_24 1 2 3 4 REF
C_C1 1 REF 0.4766447376855pf
C_C2 1 2 8.5222514873283pf
C_C3 1 3 0.0910541939119pf
C_C4 1 4 0.1405605809081pf
C_C5 2 REF 0.5924368040768pf
C_C6 2 3 0.0743483137307pf
C_C7 2 4 0.0356235924805pf
C_C8 3 REF 0.606298998367pf
C_C9 4 REF 0.5980611737139pf
L_L1 1 5 1.7600446456733nh
R_RL1 5 2 -0.011082458199
L_L2 3 6 1.2913236735005nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_25 1 2 3 4 REF
C_C1 1 REF 0.4984170668429pf
C_C2 1 2 6.8227781491349pf
C_C3 1 3 0.1094444585123pf
C_C4 1 4 0.1168624625312pf
C_C5 2 REF 0.5918418585614pf
C_C6 2 3 0.0611376252252pf
C_C7 2 4 0.0647541327157pf
C_C8 3 REF 0.6042619973185pf
C_C9 4 REF 0.5955157611644pf
L_L1 1 5 1.9008757385294nh
R_RL1 5 2 -5.146458218e-4
L_L2 3 6 1.2881154415918nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_26 1 2 3 4 REF
C_C1 1 REF 0.5079155494747pf
C_C2 1 2 6.5359556916866pf
C_C3 1 3 0.1222654380738pf
C_C4 1 4 0.1080398884251pf
C_C5 2 REF 0.5994614859379pf
C_C6 2 3 0.0523401440559pf
C_C7 2 4 0.0779126437911pf
C_C8 3 REF 0.6026987307821pf
C_C9 4 REF 0.5935292752777pf
L_L1 1 5 1.9178033906372nh
R_RL1 5 2 5.6556493095e-5
L_L2 3 6 1.2867444579543nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param15_26

